US05175157
3-[(Piperidin-3-yl)-methyl]-7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2 -one
14.3 g (0.0352 mol) of 3-[(N-benzyl-piperidin-3-yl)-methyl]7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one are hydrogenated in 120 ml of glacial acetic acid in the presence of 1.5 g of 10% palladium/charcoal for 4 hours at 50° C. under 5 bar of hydrogen. The catalyst is then removed by suction filtering, the glacial acetic acid is distilled off in vacuo and, after the addition of water, the residue is neutralized with potassium carbonate. The greasy precipitate is extracted with methylene chloride, the organic phase is dried over magnesium sulphate and concentrated by evaporation in vacuo. Yield: 9.3 g (83% of theory), Melting point: 152°-156° C.

reactant | 3-[(N-benzyl-piperidin-3-yl)-methyl]7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one | 0.0352 mol, 14.3 g | C(C1=CC=CC=C1)N1CC(CCC1)CN1C=CC2=C(CC1=O)C=C(C(=C2)OC)OC | C25H30N2O3
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
catalyst | palladium/charcoal | 1.5 g | [Pd] | Pd
product | 3-[(Piperidin-3-yl)-methyl]-7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2 -one | N1CC(CCC1)CN1CCC2=C(CC1=O)C=C(C(=C2)OC)OC | C18H26N2O3
